US06982348B2
4) ethyl (2RS,3RS)-3-[3-(benzyloxy)phenyl]-3-hydroxy-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propanoate
To a solution of zinc chloride (9.14 g, 67.0 mmol) in diethyl ether (100 ml) was added sodium borohydride (5.07 g, 134 mmol), and the mixture was stirred at room temperature for 30 min. Insoluble material was filtered off, and to the filtrate was added a solution of ethyl 3-[3-(benzyloxy)phenyl]-3-oxo-2-[3-(1,1,2,2-tetrafluoroethoxy)-benzyl]propanoate (19.0 g, 33.5 mmol) in diethyl ether (200 ml) at 0° C. The mixture was stirred for 30 min. and 1N hydrochloric acid was added to stop the reaction. Then, water (500 ml) was added and the mixture was extracted with ethyl acetate (500 ml×2). The extract was washed with water and saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1-ethyl acetate) to give the objective substance (10.7 g, crude).

reactant | sodium borohydride | 134 mmol, 5.07 g | [BH4-].[Na+]
reactant | ethyl 3-[3-(benzyloxy)phenyl]-3-oxo-2-[3-(1,1,2,2-tetrafluoroethoxy)-benzyl]propanoate | 33.5 mmol, 19.0 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(C(C(=O)OCC)CC1=CC(=CC=C1)OC(C(F)F)(F)F)=O | C27H24F4O5
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | water | 500 ml | O | H2O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
catalyst | zinc chloride | 67.0 mmol, 9.14 g | [Cl-].[Zn+2].[Cl-]
product | ethyl (2RS,3RS)-3-[3-(benzyloxy)phenyl]-3-hydroxy-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propanoate | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(C(C(=O)OCC)CC1=CC(=CC=C1)OC(C(F)F)(F)F)O | C27H26F4O5
